### PR TITLE
[Merged by Bors] - feat: homomorphisms are linear over Z/nZ scalars

### PR DESCRIPTION
**Pull request by llllvvuu**
Port from PFR for using linear algebra on C_2^n, following the convention of `AddMonoidHom.to{Int,Nat,Rat}LinearMap` but in a different file to avoid circular import.

For a separate PR:
```lean
@[reducible]
def module (h : ∀ (x : M), n • x = 0) : Module (ZMod n) M
```

Co-authored-by: adamtopaz <github@adamtopaz.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ZMod/Module.lean [hunk 1]
```diff
@@ -0,0 +1,41 @@
+import Mathlib.Data.ZMod.Basic
+import Mathlib.Algebra.Module.LinearMap
+
+/-!
+# The `ZMod n`-module structure on commutative monoids whose elements have order dividing `n`
+-/
+
+variable {n : ℕ} {M M₁ : Type*} [AddCommMonoid M] [AddCommMonoid M₁]
+  [Module (ZMod (n + 1)) M] [Module (ZMod (n + 1)) M₁]
```
Comment (alreadydone) [inline Mathlib/Data/ZMod/Module.lean:9]: Why not `ZMod n`? `ZMod 0` is defeq to `Z` so `map_smul` should just follow from `map_zsmul`.

Comment (llllvvuu) [reply Mathlib/Data/ZMod/Module.lean]: Done, I just had to take an `AddCommGroup` instance instead of `AddCommMonoid`, although I'm not sure how much that matters in practice since I don't think something can be a Z/nZ-module without being a group

Comment (alreadydone) [reply Mathlib/Data/ZMod/Module.lean]: Yeah, every `ZMod n` is a ring, so any AddCommMonoid that is a `ZMod n`-module must be a group (define `-a = (-1) • a`). In mathlib we almost always write AddCommGroup when it's a module over a Ring (rather than Semiring), so changing to AddCommGroup conforms with mathlib convention. However, if you do want to prove the AddCommMonoid version, you can do so by temporarily constructing a AddCommGroup within the proof.

File: Mathlib/Data/ZMod/Module.lean [hunk 2]
```diff
@@ -0,0 +1,46 @@
...
+/-- Reinterpret an additive homomorphism as a `ℤ/nℤ`-linear map.
+
+See also:
+`AddMonoidHom.toIntLinearMap`, `AddMonoidHom.toNatLinearMap`, `AddMonoidHom.toRatLinearMap` -/
+def toZModLinearMap (f : M →+ M₁) : M →ₗ[ZMod n] M₁ := { f with map_smul' := ZMod.map_smul f }
+
+theorem toZModLinearMap_injective: Function.Injective $ toZModLinearMap n (M := M) (M₁ := M₁) := by
+  intro f g h
+  ext x
+  exact LinearMap.congr_fun h x
```
Comment (j-loreaux) [inline Mathlib/Data/ZMod/Module.lean:41]: This is just a style thing. We know use `<|` instead of `$` (in part because the former has symmetry with `|>`). The golf is optional.
```suggestion
theorem toZModLinearMap_injective: Function.Injective <| toZModLinearMap n (M := M) (M₁ := M₁) :=
  fun _ _ h ↦ ext fun x ↦ congr($h x)
```

**Comment by j-loreaux** [comment]
bors d+
